US08212045B2
(R)-2,2,5,5-Tetramethyl-1,3-dioxolane-4-carbaldehyde (16 g, 101 mmol) (Burger, A. Synthesis 1989, (2) 93-97) was dissolved in 1:1 methanol:water (250 mL), and hydroxylamine hydrochloride (7.0 g, 101 mmol) and Na2CO3 (5.4 g, 51 mmol) were added and the reaction was stirred at ambient temperature for 2 hours. The methanol was partially removed in vacuo and the aqueous layer was extracted with CH2Cl2, dried, filtered, and concentrated to afford (S)-2,2,5,5-tetramethyl-1,3-dioxolane-4-carbaldehyde oxime (13 g, 75 mmol, 74% yield) as an amber oil.

reactant | (R)-2,2,5,5-Tetramethyl-1,3-dioxolane-4-carbaldehyde | 101 mmol, 16 g | CC1(OC([C@@H](O1)C=O)(C)C)C | C8H14O3
reactant | water | 250 mL | O | H2O
reactant | hydroxylamine hydrochloride | 101 mmol, 7.0 g | Cl.NO
reactant | Na2CO3 | 51 mmol, 5.4 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | methanol | CO | CH4O
product | (S)-2,2,5,5-tetramethyl-1,3-dioxolane-4-carbaldehyde oxime | 75 mmol, 13 g, 74% yield | CC1(OC([C@@H](O1)C=NO)(C)C)C | C8H15NO3
